US05965738
Synthesis of 5-ethyl-2-trifluoroacetylimino-3-(4-iodobenzyl)-1,3,4-thiadiazoline
To a solution of 5-ethyl-2-trifluoroacetylamino-1,3,4-thiadiazole (22.5 g) and 4-iodobenzyl bromide (32.7 g) in N,N-dimethylformamide (100 ml) was added potassium carbonate (13.8 g), followed by stirring at room temperature overnight. To the reaction mixture, ethyl acetate (500 ml) was added. The resulting mixture was washed three times with 10% aqueous citric acid solution, followed by drying over anhydrous magnesium sulfate. The solvent was then distilled off. The oily substance so obtained was separated by column chromatography on silica gel. The crystals so obtained were dispersed in n-hexane, collected by filtration and then dried, whereby 33.9 g of the title compound was obtained.

reactant | 5-ethyl-2-trifluoroacetylamino-1,3,4-thiadiazole | 22.5 g | C(C)C1=NN=C(S1)NC(C(F)(F)F)=O | C6H6F3N3OS
reactant | 4-iodobenzyl bromide | 32.7 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | 5-ethyl-2-trifluoroacetylimino-3-(4-iodobenzyl)-1,3,4-thiadiazoline | 33.9 g | C(C)C1=NN(C(S1)=NC(C(F)(F)F)=O)CC1=CC=C(C=C1)I | C13H11F3IN3OS
